US07585874B2
N-[2-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridin-6-yl]-nicotinamide
As described for Example 56, 2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridin-6-ylamine (71 mg, 0.22 mmol) was converted, using nicotinic acid instead of cyclopropylacetic acid, to the title compound (63 mg, 80%) which was obtained as an off-white solid. MS: m/e=396.3 [M+H]+.

reactant | 2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridin-6-ylamine | 0.22 mmol, 71 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=C2N(C=C(C=C2)N)C1 | C17H14N4O
reactant | nicotinic acid | C(C1=CN=CC=C1)(=O)O | C6H5NO2
product | N-[2-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridin-6-yl]-nicotinamide | 63 mg, 80% | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=C2N(C=C(C=C2)NC(C2=CN=CC=C2)=O)C1 | C23H17N5O2
